US04271152
1. Z-Glu(OtBu)-Lys(Boc)-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu
843 mg Z-Glu(OtBU)-OH and 676 mg HOBt are dissolved in 10 ml DMF. After cooling to -22° C., 2.82 g H-Lys(Boc)-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu (Example VII.2) and 517 mg DCCI, dissolved in 2 ml DMF, are added to the solution. After stirring at -22° C. for some time, the DCHU is filtered out and the filtrate is evaporated to dryness.

reactant | Z-Glu(OtBU)-OH | 843 mg | CC(C)(C)OC(=O)CC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C17H23NO6
reactant | HOBt | 676 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Lys(Boc)-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu | 2.82 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)CCC1 | C53H95N11O16
reactant | DCCI | 517 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Z-Glu(OtBu)-Lys(Boc)-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C70H116N12O21
